US08232273B2
Step 1: Preparation of tert-butyl (1S,2S,5R,9S)-2-(4-hydroxyphenyl)bicyclo[3.3.1]nonan-9-ylcarbamate (80A)
4-((1S,2S,5R,9S)-9-aminobicyclo[3.3.1]nonan-2-yl)phenol HCl salt (92 mg, 0.344 mmol) in THF (2 ml) was treated with di-tert-butyl dicarbonate (0.088 ml, 0.38 mmol) and Et3N (0.19 ml, 1.37 mmol) and stirred at ambient temperature for three hours. The reaction mixture was diluted with EtOAc, washed with water and brine, dried (MgSO4), filtered and concentrated. The concentrate was purified by column chromatography on silica gel eluting with a gradient of 0 to 5% MeOH in CH2Cl2: 1H NMR (300 MHz, DMSO-d6) δ ppm 9.09 (1H, s), 7.01 (2H, m), 6.68 (2H, m), 3.53 (1H, m), 3.01 (1H, m), 2.09 (3H, m), 1.69 (10H, m), 1.42 (9H, s).

reactant | 4-((1S,2S,5R,9S)-9-aminobicyclo[3.3.1]nonan-2-yl)phenol HCl salt | 0.344 mmol, 92 mg | Cl.N[C@@H]1[C@@H]2[C@H](CC[C@H]1CCC2)C2=CC=C(C=C2)O
reactant | di-tert-butyl dicarbonate | 0.38 mmol, 0.088 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 1.37 mmol, 0.19 ml | CCN(CC)CC | C6H15N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl (1S,2S,5R,9S)-2-(4-hydroxyphenyl)bicyclo[3.3.1]nonan-9-ylcarbamate | OC1=CC=C(C=C1)[C@@H]1[C@@H]2CCC[C@H](CC1)[C@@H]2NC(OC(C)(C)C)=O | C20H29NO3
